US08168651B2
Phenol (2.0 eq, 85 mg) was dissolved in anhydrous DMF. 60% sodium hydride (2.0 eq, 36 mg) was added and the reaction mixture stirred for a few minutes. 4-chlorothieno[3,2-c]quinoline-7-carbonitrile (1.0 eq, 110 mg) was added to the mixture and the whole reaction was stirred at 100° C. for two days. Water was added and the solid was filtered and dried. 4-phenoxythieno[3,2-c]quinoline-7-carbonitrile was isolated as a solid (114 mg). LCMS (ES)>95% pure, m/z 303 [M+1]+.

reactant | Phenol | 85 mg, 2.0 eq | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 36 mg, 2.0 eq | [H-].[Na+]
reactant | 4-chlorothieno[3,2-c]quinoline-7-carbonitrile | 110 mg, 1.0 eq | ClC1=NC=2C=C(C=CC2C2=C1C=CS2)C#N | C12H5ClN2S
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-phenoxythieno[3,2-c]quinoline-7-carbonitrile | O(C1=CC=CC=C1)C1=NC=2C=C(C=CC2C2=C1C=CS2)C#N | C18H10N2OS
